US03947585
The starting material is prepared as follows: To the solution of 17 g of potassium t-butoxide in 150 ml of ethyleneglycol, 24 g of 4-chlorophenyl propargylketone are added portionwise while stirring at 0°. After one hour 9 g of acetic acid are added, the mixture poured onto ice, diluted with diethyl ether and the pH thereof adjusted to 8 with sodium bicarbonate. The ethereal layer is separated, washed with saturated aqueous sodium chloride, dried and evaporated, to yield the 2-(4-chlorobenzoyl)-acetaldehyde ethylene acetal.

reactant | potassium t-butoxide | 17 g | CC(C)([O-])C.[K+]
reactant | 4-chlorophenyl propargylketone | 24 g | ClC1=CC=C(C=C1)C(C#C)C(=O)C(C#C)C1=CC=C(C=C1)Cl | C19H12Cl2O
reactant | acetic acid | 9 g | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyleneglycol | 150 ml | C(CO)O | C2H6O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-chlorobenzoyl)-acetaldehyde ethylene acetal | C1COC(CC(C2=CC=C(C=C2)Cl)=O)O1 | C11H11ClO3
